US07279481B2
3-(3-{2-[(2R)-2-Methyl-4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-1,3-oxazolidin-2-one (E125)
The title compound was prepared in 33% yield using a similar procedure to E124 starting from 2-methyl-5-[(3R)-3-methyl-1-piperazinyl]quinoline and 2-[3-(2-oxo-1,3-oxazolidin-3-yl)phenyl]ethyl methanesulfonate.

reactant | 2-methyl-5-[(3R)-3-methyl-1-piperazinyl]quinoline | CC1=NC2=CC=CC(=C2C=C1)N1C[C@H](NCC1)C | C15H19N3
reactant | 2-[3-(2-oxo-1,3-oxazolidin-3-yl)phenyl]ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC(=CC=C1)N1C(OCC1)=O | C12H15NO5S
product | 3-(3-{2-[(2R)-2-Methyl-4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-1,3-oxazolidin-2-one | 33% yield | C[C@H]1N(CCN(C1)C1=C2C=CC(=NC2=CC=C1)C)CCC=1C=C(C=CC1)N1C(OCC1)=O | C26H30N4O2
